US07632840B2
1M HCl in diethyl ether (1.4 ml) was added to a stirred suspension of 4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)amino]tetrahydro-2H-pyran-4-carboxylic acid (0.66 g, 1.43 mmol), acetaldehyde (1.6 ml, 28.6 mmol) and anhydrous magnesium sulfate (0.34 g, 2.83 mmol) in methanol (10 ml). Sodium cyanoborohydride (0.36 g, 5.71 mmol) was added and the resulting mixture heated at 40° C. for 4 hours. The reaction mixture was then filtered and evaporated. The residues were purified by column chromatography on silica, eluting with 7M ammonia in methanol/methylene chloride (16/84). Fractions containing the desired product were combined and evaporated. The resulting gum was triturated with diethyl ether to give 4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(ethyl)amino]tetrahydro-2H-pyran-4-carboxylic acid as a white solid (440 mg, 63%); 1H NMR Spectrum: (DMSO-d6) δ 0.79 (t, 3H), 1.71-1.84 (m, 2H), 2.07-2.11 (d, 2H), 2.67-2.76 (q, 2H), 3.23-3.33 (t, 2H), 3.80-3.88 (m, 2H), 3.89-3.95 (m, 5H), 7.16 (s, 1H), 7.22-7.29 (m, 1H), 7.43-7.49 (m, 1H), 7.52-7.57 (dd, 1H), 8.38 (s, 1H), 8.41 (s, 1H); Mass Spectrum: (M+H)+ 489.

reactant | HCl | 1M | Cl | ClH
reactant | 4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)amino]tetrahydro-2H-pyran-4-carboxylic acid | 1.43 mmol, 0.66 g | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CNC1(CCOCC1)C(=O)O)OC)F | C22H22ClFN4O4
reactant | acetaldehyde | 28.6 mmol, 1.6 ml | C(C)=O | C2H4O
reactant | magnesium sulfate | 2.83 mmol, 0.34 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | Sodium cyanoborohydride | 5.71 mmol, 0.36 g | C(#N)[BH3-].[Na+]
solvent | diethyl ether | 1.4 ml | C(C)OCC | C4H10O
solvent | methanol | 10 ml | CO | CH4O
product | 4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(ethyl)amino]tetrahydro-2H-pyran-4-carboxylic acid | 440 mg, 63% | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CN(C1(CCOCC1)C(=O)O)CC)OC)F | C24H26ClFN4O4
